US08030499B2
Step 107-1: Synthesis of 3-(1,3-benzodioxol-4-yl)-3-hydroxy-5-methyl-1,3-dihydro-2H-indol-2-one
With 7.80 g of 4-bromo-1,3-benzodioxol and 1.61 g of 5-methyl isatin as starting materials, 1.95 g of the title compound (brown solid) was obtained by a similar method to Step 21-1.

reactant | 4-bromo-1,3-benzodioxol | 7.80 g | BrC1=CC=CC=2OCOC21 | C7H5BrO2
reactant | 5-methyl isatin | 1.61 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
product | 3-(1,3-benzodioxol-4-yl)-3-hydroxy-5-methyl-1,3-dihydro-2H-indol-2-one | 1.95 g | O1COC2=C1C=CC=C2C2(C(NC1=CC=C(C=C21)C)=O)O | C16H13NO4
